US07691877B2
2,6-dibromo pyridin-4-ylamine
2,6-dibromo-4-nitro pyridine 1-oxide (14.5 g, 48.6 mmol) was taken up in 130 mL of acetic acid and iron powder (11 g, 196.9 mmol) was added in portionwise and the mixture was stirred at room temperature for 45 minutes. 500 mL of water was added and the product was extracted with EtOAc (500 mL). The organic layer was washed with 300 mL of water then with 300 mL of a sat K2CO3 sol and then with 300 mL of brine. The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo to give 11.1 g of the title compound as a white solid.

reactant | 2,6-dibromo-4-nitro pyridine 1-oxide | 48.6 mmol, 14.5 g | BrC1=[N+](C(=CC(=C1)[N+](=O)[O-])Br)[O-] | C5H2Br2N2O3
reactant | water | 500 mL | O | H2O
solvent | acetic acid | 130 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 196.9 mmol, 11 g | [Fe] | Fe
product | 2,6-dibromo pyridin-4-ylamine | 11.1 g | BrC1=NC(=CC(=C1)N)Br | C5H4Br2N2
